Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
incidental choledocholithiasis

 
Major Surgical or Invasive Procedure:
___- ERCP with sphincterotomy, sludge removal
___- laparoscopic partial cholecystectomy

 
History of Present Illness:
___ year old male with h/o RCC s/p resection with no evidence 
of disease, BPH s/p TURP c/b urinary outlet obstruction 
secondary to bladder diverticulum for which he straight caths 
himself, developed nausea and vomiting a week ago. His PCP 
ordered him an MRCP which demonstrated choledocholithiasis, as 
well as pancreas divisum and abnormal appearing GB consistent 
with adenomyomatosis. He underwent ERCP with sphincterotomy and 
sludge extraction. Periprocedure he received cipro 400 mg IV as 
well as 1 mg IV Dilaudid with good effect. Pt was able to void 
post procedure by straight cathing.  He last vomited a month ago 
and denies further symptoms. He does not report fevers or 
chills. He has lost ___ pounds over the past 2 months which he 
attributes to eating a healthier diet. + chronic phlegmy cough 
that he cannot bring up the sputum. No recent changes. 
Occasional night sweats. They are mild and he does not wake up 
drenched. He thinks that its a function of his thermostat. Last 
BM this am- normal. He takes Metamucil and a probiotic to keep 
regular. No blood in it, no diarrhea or constipation. He notes 
that he is becoming weaker which he attributes to him not 
exercising. He used to be an athlete. 

 
Past Medical History:
Prostatic hypertrophy, benign 
Osteoarthritis of ankle and foot 
Sebaceous carcinoma 
Intraabdominal hemorrhage 
Acquired cyst of kidney 
Malignant neoplasm of kidney, except pelvis 
Cholelithiases 
Advanced care planning/counseling discussion 
Renal carcinoma 
Basal cell carcinoma 
urinary retention S/P TURP x 2 in ___ and ___ requires CIC bid 
for bladder diverticulae
Screen for colon cancer 
Optic nerve cupping, suspicious 
R pT2b RCC s/p nephrectomy in ___ and ___ to date. Cr stable 
around 1.4-1.6 post-op

 
Social History:
___
Family History:
father with aneurysm and died of an embolism. 
uncle- CAD s/p bypass (age ___
 

 
Physical Exam:
Admission physical exam:
Vitals:97.6 PO 167 / 70 69 18 98 ra  
CONS: NAD, comfortable appearing  
HEENT: 3 mm which do not react to light   
CV: s1s2 rrr ___ SEM at RUSB with radiation to the carotids
No HJR 
RESP: b/l ae no w/c/r  
GI: +bs, soft, NT, ND, no guarding or rebound  
Well healed RUQ abdominal surgical scar
MSK:no c/c/e 2+pulses
FEET: Well cut toenails which he does himself  
SKIN: + SKs on face  
NEURO: face symmetric speech fluent, able to sit up in bed and 
show me how he cuts his toenails. ___ strength in b/l lower and 
upper extremities  
PSYCH: calm, cooperative, pleasant 
LAD: No cervical LAD

Discharge physical exam: 
VS: 98.6 144/76 66 18 96RA
General: well-appearing male, NAD
HEENT: NCAT, moist mucus membranes
Chest: no increased WOB
Cardiac: RRR
Abd: soft, nontender, mildly distended. Port sites with steris 
open to air c/d/I. JP drain in place in RUQ with serosanguinous 
output. 
Ext: WWP, no edema
 
Pertinent Results:
___ 01:30PM   UREA N-22* CREAT-1.2 SODIUM-138 POTASSIUM-4.6 
CHLORIDE-104 TOTAL CO2-23 ANION GAP-16
___ 01:30PM   estGFR-Using this
___ 01:30PM   ALT(SGPT)-13 AST(SGOT)-21 ALK PHOS-66 
AMYLASE-114*
___ 01:30PM   LIPASE-25
___ 01:30PM   MAGNESIUM-1.9
___ 01:30PM   WBC-6.0 RBC-3.35* HGB-10.6* HCT-32.3* MCV-96 
MCH-31.6 MCHC-32.8 RDW-17.7* RDWSD-60.7*
___ 01:30PM   PLT COUNT-253
___ 01:30PM   ___ PTT-30.6 ___
___ 12:00AM BLOOD WBC-9.8# RBC-3.16* Hgb-9.9* Hct-30.4* 
MCV-96 MCH-31.3 MCHC-32.6 RDW-17.2* RDWSD-60.2* Plt ___
___ 12:00AM BLOOD Glucose-118* UreaN-26* Creat-1.1 Na-137 
K-4.4 Cl-104 HCO3-24 AnGap-13
___ 06:00AM BLOOD WBC-8.5 RBC-2.95* Hgb-9.6* Hct-28.8* 
MCV-98 MCH-32.5* MCHC-33.3 RDW-17.5* RDWSD-62.0* Plt ___
___ 06:00AM BLOOD Glucose-108* UreaN-22* Creat-1.2 Na-138 
K-4.5 Cl-102 HCO3-22 AnGap-19
___ 06:00AM BLOOD ALT-61* AST-53* AlkPhos-96 TotBili-0.7
___ 05:30AM BLOOD WBC-6.7 RBC-2.97* Hgb-9.5* Hct-28.9* 
MCV-97 MCH-32.0 MCHC-32.9 RDW-17.8* RDWSD-62.6* Plt ___
___ 05:30AM BLOOD Glucose-100 UreaN-16 Creat-1.2 Na-136 
K-4.4 Cl-101 HCO3-25 AnGap-14
___ 05:30AM BLOOD ALT-41* AST-29 AlkPhos-84 TotBili-0.6

+++++++++++++++++++++++++++++++++++++
___ MRCP
IMPRESSION:
1. There is at least one suspicious filling defect in the common 
bile duct for choledocholithiasis, measuring 5 mm. This was 
likely present on last year's MRI, as commented on in the 
report. There is no biliary dilatation.
2. Pancreas divisum. No evidence of acute pancreatitis or 
pancreatic ductal
dilatation.
3. Markedly abnormal gallbladder, as on all prior studies elbow 
for comparison, with gallstones and gallbladder wall thickening 
with cystic dilatation suggesting adenomyomatosis.
4. Status post right nephrectomy without evidence of recurrence 
or metastatic disease on this unenhanced exam.
5. Abnormal appearance of segment III of the liver is stable 
from multiple prior studies and unlikely to be related to 
neoplasm
++++++++++++++++
ERCP: ___

The CBD was successfully cannulated with CleverCut 3V 
sphincterotome preloaded with a 0.025in guidewire. The guidewire 
was advanced into the intrahepatic biliary tree. 
Contrast injection revealed a CBD of approximately 8mm in 
diameter and small filling defects in the distal CBD consistent 
with sludge. 
A sphincterotomy was successfully performed at the 12 o'clock 
position. No post sphincterotomy bleeding was noted. 
The CBD was swept several times with successful removal of small 
amounts of sludge material. 
Occlusion cholangiogram showed no further filling defects. 
There was excellent drainage of bile and contrast at the end of 
the procedure.  
Pancreas: 
The PD was not injected or cannulated.
.
Impression: •Limited exam of the esophagus was normal
•Limited exam of the stomach was normal
•Limited exam of the duodenum was normal
• The scout film revealed radiopaque markers in the RUQ. 
•The major papilla appeared normal. 
•The CBD was successfully cannulated with CleverCut 3V 
sphincterotome preloaded with a 0.025in guidewire. 
•The guidewire was advanced into the intrahepatic biliary tree. 
•Contrast injection revealed a CBD of approximately 8mm in 
diameter and small filling defects in the distal CBD consistent 
with sludge.
•A sphincterotomy was successfully performed at the 12 o'clock 
position. 
•No post sphincterotomy bleeding was noted. 
•The CBD was swept several times with successful removal of 
small amounts of sludge material.
•Occlusion cholangiogram showed no further filling defects. 
There was excellent drainage of bile and contrast at the end of 
the procedure.
•The PD was not injected or cannulated.
 .
Recommendations: •Admit to hospital for monitoring
•NPO overnight with aggressive IV hydration with LR at 200 cc/hr
•If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated
•Refer for surgical evaluation for cholecystectomy with Dr. 
___.
•No aspirin, Plavix, NSAIDS, Coumadin for 5 days.
•Continue with antibiotics - Ciprofloxacin 500mg BID x 5 days.
•Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call Advanced 
Endoscopy Fellow on call ___
.
ECG: SR at 64 bpm, incomplete RBBB.

 
Brief Hospital Course:
The patient is a ___ male who presented to ___ with 
complaint of nausea/emesis and outpatient MRCP findings of 
choledocholithiasis and gallbladder adenomyomatosis. His labwork 
was unremarkable. Given his symptoms and the MRCP findings, 
however, he went with the GI team for ERCP with sphincterotomy 
and sludge extraction. General surgery was subsequently 
consulted for surgical management. The following day, he 
underwent cholecystectomy and was transferred to the surgical 
service. The procedure was complicated by bowel noted to be 
adherent to the gallbladder requiring an extension of the 
surgical incision as well as running the bowel without any bowel 
injury noted. Also, due to the high degree of inflammation, a 
partial laparoscopic cholecystectomy was performed with a small 
segment of infundibulum remaining. Given EBL of 200cc, a JP 
drain was left in place in the RUQ that produced serosanguinous, 
non-bilious output during his post-operative course. 
Intraoperatively, the patient intermittently required 
phenylephrine but was hemodynamically stable post-operatively 
and did not require additional pressors or fluid rescusitation. 
He remained afebrile. 
His diet was advanced to fulls on the evening of POD0 and then 
regular diet on POD1, which he tolerated well. His pain regimen 
was switched from IV to oral once he tolerated a diet with good 
relief. Post-operatively, flagyl was added to the ciprofloxacin. 
He will continue on ciprofloxacin/flagyl at home after discharge 
for a total 5-day course. He ambulated and self-catheterized per 
his usual routine without difficulty during his stay. He will be 
discharged home on POD2 with the JP drain in place with ___ 
care. He will be seen in clinic for follow up in one week for 
drain removal. 
 
Medications on Admission:
1. Tamsulosin 0.4 mg PO QHS 
2. Finasteride 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Psyllium Wafer 1 WAF PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID:PRN Pain - Mild/Fever 
Do not exceed 3500mg in one day.  
2.  Ciprofloxacin HCl 500 mg PO Q12H 
Take last dose the evening of ___.  
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth q12 Disp #*7 
Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
Hold for loose stools.  
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
4.  MetroNIDAZOLE 500 mg PO TID 
Take last dose the evening of ___.  
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*11 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not take while driving or drinking alcohol.  
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 to 6 hours 
Disp #*25 Tablet Refills:*0 
6.  Senna 8.6 mg PO BID:PRN constipation 
Hold for loose stools.  
RX *sennosides [senna] 8.6 mg 1 by mouth twice a day Disp #*30 
Tablet Refills:*0 
7.  Finasteride 5 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Psyllium Wafer 1 WAF PO DAILY  
10.  Tamsulosin 0.4 mg PO QHS  
11. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until ___. Hold for 5 days after 
ERCP. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
choledocholithiasis
adenomyomatosis
chronic cholecystitis
pericholecystic abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the general surgery service after having 
gallstones and sludge removed from your bile duct by the GI 
doctors during ___. You received IV antibiotics (ciprofloxacin) 
and underwent removal of your gallbladder by the surgery 
service. The incision had to be extended because your 
gallbladder was very inflamed. A very small portion of the 
gallbladder was left because it was unsafe to remove it but the 
procedure otherwise went well.  You are now taking a regular 
diet. You will be discharged home to complete a 4-day course of 
oral ciprofloxacin and flagyl. You should follow up in general 
surgery clinic in two weeks. 

Please follow the discharge instructions below:

ACTIVITY:
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
- You may climb stairs. You should continue to walk several 
times a day. 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit. 
- You may start some light exercise when you feel comfortable. 
Slowly increase your activity back to your baseline as 
tolerated.
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first. 
- No heavy lifting (10 pounds or more) until cleared by your 
surgeon, usually about 6 weeks. 

HOW YOU MAY FEEL: 
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
- You may have a sore throat because of a tube that was in your 
throat during the surgery.

YOUR BOWELS:
- Constipation is a common side effect of narcotic pain medicine 
such as oxycodone. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.
- After removal of your gallbladder, diarrhea can occur. If you 
get diarrhea, don't take anti-diarrhea medicines. Drink plenty 
of fluids and it will likely resolve on its own. If it does not 
go away, or is severe and you feel ill, please call your 
surgeon.

PAIN MANAGEMENT:
- You are being discharged with a prescription for oxycodone for 
pain control. You may take Tylenol as directed, not to exceed 
3500mg in 24 hours. Take regularly for a few days after surgery 
but you may skip a dose or increase time between doses if you 
are not having pain until you no longer need it. You may take 
the oxycodone for moderate and severe pain not controlled by the 
Tylenol. You may take a stool softener while on narcotics to 
help prevent the constipation that they may cause. Slowly wean 
off these medications as tolerated. 
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.

MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon. 

WOUND CARE: 
- dressing removal: Your outer gauze dressings were removed 
prior to discharge home. 
-Starting today, you may shower with any bandage strips that may 
be covering your wound. Do not scrub and do not soak or swim, 
and pat the incision dry. Steri strips, will fall off by 
themselves in ___ weeks. If any are still on in two weeks and 
the edges are curling up, you may carefully peel them off. Do 
not take baths, soak, or swim for 6 weeks after surgery unless 
told otherwise by your surgical team. 
-Notify your surgeon is you notice abnormal (foul smelling, 
bloody, pus, etc) or increased drainage from your incision site, 
opening of your incision, or increased pain or bruising. Watch 
for signs of infection such as redness, streaking of your skin, 
swelling, increased pain, or increased drainage. 

DRAIN CARE:
 
You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands with soap and warm water before 
performing your drain care, which you should do ___ times a day. 
Try to empty the drain at the same time each day. Pull the 
stopper out of the bottle and empty the drainage fluid into the 
measuring cup. Record the amount of fluid on the record sheet, 
and reestablish drain suction. **--A visiting nurse ___ help 
you with your drain care.--**
- Clean around the drain site(s) where the tubing exits the skin 
with soap and water. Be sure to secure your drains so they don't 
hang down loosely and pull out. 
-Strip the drain tubing, empty the bulb(s), and record the 
output ___ times a day as described above. 
-Keep a written record of the daily amount from each drain and 
bring this to every follow up appointment. Your drains will be 
removed once the output tapers off to an acceptable amount. 

If you experience any of the following, please contact your 
surgeon: 
- sharp pain or any severe pain that lasts several hours
- chest pain, pressure, squeezing, or tightness
- cough, shortness of breath, wheezing
- pain that is getting worse over time or pain with fever
- shaking chills, fever of more than 101
- a drastic change in nature or quality of your pain
- nausea and vomiting, inability to tolerate fluids, food, or 
your medications
- if you are getting dehydrated (dry mouth, rapid heart beat, 
feeling dizzy or faint especially while standing)
-any change in your symptoms or any symptoms that concern you

Please call with any questions or concerns. Thank you for 
allowing us to participate in your care. We hope you have a 
quick return to your usual life and activities. 

-- Your ___ Care Team
 
Followup Instructions:
___